US07855218B2
Description 73: Methyl (5R)-5-(3-cyano-4-{[(2-fluorophenyl)methyl]oxy}phenyl)-L-prolinate (D73)
A suspension of methyl (2S)-5-(3-cyano-4-{[(2-fluorophenyl)methyl]oxy}phenyl)-3,4-dihydro-2H-pyrrole-2-carboxylate (D72, 70 mg, 0.198 mmol) and Pt (5% on carbon) in ethyl acetate (10 ml) was stirred at room temperature for 24 hrs. Filtration over celite and subsequent evaporation gave the title compound (64 mg, 91%). The obtained material was used unpurified in the next step. UPLC: Rt=0.55 min, MS: (ES/+) m/z: 355 [MH+], C20H19FN2O3 requires 354.

reactant | methyl (2S)-5-(3-cyano-4-{[(2-fluorophenyl)methyl]oxy}phenyl)-3,4-dihydro-2H-pyrrole-2-carboxylate | 0.198 mmol, 70 mg | C(#N)C=1C=C(C=CC1OCC1=C(C=CC=C1)F)C=1CC[C@H](N1)C(=O)OC | C20H17FN2O3
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | Methyl (5R)-5-(3-cyano-4-{[(2-fluorophenyl)methyl]oxy}phenyl)-L-prolinate | 64 mg, 91% | C(#N)C=1C=C(C=CC1OCC1=C(C=CC=C1)F)[C@H]1CC[C@H](N1)C(=O)OC | C20H19FN2O3
